US08017792B2
Et3SiH (8.5 mL, 0.0531 mol) was added to a mixed solution of chloroform (8 mL) and acetonitrile (32 mL) of (4-methoxy-2-methyl phenyl)(4-methylphenyl)methanone and BF3.Et2O (4.5 mL, 0.0354 mol) was added dropwise while cooled on ice. The reaction mixture was warmed to room temperature and stirred at 50° C. for one hour. After the reaction mixture was added with a saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate while cooled on ice, the organic phase was washed with brine and dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography-(hexane:ethyl acetate=15:1) to obtain colorless oily 4-methoxy-2-methyl-1-(4-methylbenzyl)benzene (3.89 g, 97%).

reactant | Et3SiH | 0.0531 mol, 8.5 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | (4-methoxy-2-methyl phenyl)(4-methylphenyl)methanone | COC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)C)C | C16H16O2
reactant | BF3.Et2O | 0.0354 mol, 4.5 mL | B(F)(F)F.CCOCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 32 mL | C(C)#N | C2H3N
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-methoxy-2-methyl-1-(4-methylbenzyl)benzene | 3.89 g, 97% | COC1=CC(=C(C=C1)CC1=CC=C(C=C1)C)C | C16H18O
